US06696473B2
A. Preparation of 4-Chloro-N-(2-dimethylaminoethyl)-3-nitrobenzamide
To a chilled solution (−10° C.) of 4-chloro-3-nitrobenzoyl chloride (0.92 g, 4.2 mmol) in anhydrous THF (20 mL) added dropwise a solution of N,N-dimethylethylenediamine (0.44 mL, 4.0 mmol) in THF (20 mL). After stirring 30 min combined with a 1:1 mixture of ice and satd NaHCO3 (50 mL) and then extracted with EtOAc (3×80 mL). The combined organic layers were dried (Na2SO4), concentrated and chromatographed (silica gel, MeOH/DCM, 3:22) to yield the title compound (0.40 g, 37%) as a pale yellow solid. 1H-NMR (CDCl3): δ 8.28 (1H, d), 7.96 (1H, dd), 7.63 (1H, d), 6.98 (1H, br s), 3.54 (2H, m), 2.56 (2H, t), 2.30 (6H, s).

reactant | 4-chloro-3-nitrobenzoyl chloride | 4.2 mmol, 0.92 g | ClC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | N,N-dimethylethylenediamine | 4.0 mmol, 0.44 mL | CN(CCN)C | C4H12N2
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-Chloro-N-(2-dimethylaminoethyl)-3-nitrobenzamide | 0.40 g, 37% | ClC1=C(C=C(C(=O)NCCN(C)C)C=C1)[N+](=O)[O-] | C11H14ClN3O3
